US05139565
A mixture of 3.50 g of N-tert-butyl-3-methylamino-2-pyridinesulfonamide and 20 ml of trifluoroacetic acid was reacted at about 50° C. for 2 hours. Thereafter, the reaction product was distilled off under a reduced pressure to obtain a residue. Ethyl acetate and n-hexane were added thereto. The resulting crystals were filtered to obtain 2.41 g of 3-methylamino 2-pyridinesulfonamide. This compound had the following NMR values.

reactant | N-tert-butyl-3-methylamino-2-pyridinesulfonamide | 3.50 g | C(C)(C)(C)NS(=O)(=O)C1=NC=CC=C1NC | C10H17N3O2S
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 3-methylamino 2-pyridinesulfonamide | 2.41 g | CNC=1C(=NC=CC1)S(=O)(=O)N | C6H9N3O2S
